US05250548
Ethyl 2-n-Pentyl-4-hydroxy-pyrimidine-5-carboxylate
Hexanecarboxamidine hydrochloride (22.36 g, 0.148 mol) and diethyl ethoxymethylene malonate (31.08 g, 0.143 mol) were dissolved in ethanol (70 mL) in an ice bath. A solution of sodium ethoxide, prepared from dissolving sodium (6.65 g, 0.289 mol) in ethanol (120 mL), was added slowly. The resulting solution was heated at reflux for 2 hours and then concentrated in vacuo. Ether and water (50 mL) were added and the resulting sodium salt was removed by filtration and washed with ether. It was suspended in water and acidified with acetic acid to give the title compound (19.69 g). m.p. 127°-129° C. after crystallization from chloroform/ether.

reactant | Hexanecarboxamidine hydrochloride | 0.148 mol, 22.36 g | Cl.C(CCCCC)C(=N)N
reactant | diethyl ethoxymethylene malonate | 0.143 mol, 31.08 g | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.289 mol, 6.65 g | [Na] | Na
solvent | ethanol | 70 mL | C(C)O | C2H6O
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | Ethyl 2-n-Pentyl-4-hydroxy-pyrimidine-5-carboxylate | 19.69 g | C(CCCC)C1=NC=C(C(=N1)O)C(=O)OCC | C12H18N2O3
